US07968746B2
Following the amide coupling procedure described in protocol A, 499 mg 6-hydroxy-2,5,7,8-tetramethylchroman-2-carboxylic acid (2.00 mmol), 360 mg CDI (2.22 mmol) and 130 mg N-methyl ethylamine (2.2 mmol) produced N-ethyl-6-hydroxy-N,2,5,7,8-pentamethylchroman-2-carboxamide as a clear oil.

reactant | 6-hydroxy-2,5,7,8-tetramethylchroman-2-carboxylic acid | 2.00 mmol, 499 mg | OC=1C(=C2CCC(OC2=C(C1C)C)(C(=O)O)C)C | C14H18O4
reactant | CDI | 2.22 mmol, 360 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | N-methyl ethylamine | 2.2 mmol, 130 mg | CNCC | C3H9N
product | N-ethyl-6-hydroxy-N,2,5,7,8-pentamethylchroman-2-carboxamide | C(C)N(C(=O)C1(OC2=C(C(=C(C(=C2CC1)C)O)C)C)C)C | C17H25NO3
